US05508385
After N-benzyloxycarbonyl-L-alanyl-L-argininal dibutylacetal hydrochloride (0.45 g, 0.85 mmol) was dissolved in methanol (25 ml), palladium black (1 g) was added to the solution. The mixture was stirred at room temperature for 2 hours in a hydrogen flow. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated to give 0.33 g (97%) of L-alanyl-L-argininal dibutylacetal hydrochloride as oil.

reactant | N-benzyloxycarbonyl-L-alanyl-L-argininal dibutylacetal hydrochloride | 0.85 mmol, 0.45 g | Cl.C(CCC)OC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)CCCNC(N)=N)OCCCC
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium black | 1 g | [Pd] | Pd
product | L-alanyl-L-argininal dibutylacetal hydrochloride | 0.33 g, 97% | Cl.C(CCC)OC([C@@H](NC([C@@H](N)C)=O)CCCNC(N)=N)OCCCC | InChI=1S/C17H37N5O3.ClH/c1-4-6-11-24-16(25-12-7-5-2)14(22-15(23)13(3)18)9-8-10-21-17(19)20;/h13-14,16H,4-12,18H2,1-3H3,(H,22,23)(H4,19,20,21);1H/t13-,14-;/m0./s1
